### PR TITLE
[Merged by Bors] - feat: cofinal subset of regular cardinal is isomorphic to it

### PR DESCRIPTION
**Pull request by vihdzp**
In set theory, one often identifies a cardinal `c` with its initial ordinal `c.ord`, and said ordinal with the lower set `Iio c.ord`. This is particularly pervasive in the theory of club and stationary subsets, where one often sees the hypothesis "let κ be a regular cardinal" in lieu of the more precise wording: that `κ` is an (infinite) well-order, whose order type equals the initial ordinal of its cardinality.

We define a typeclass `IsRegularCardinalOrder` for this assumption. The benefit of using it is that our results won't apply only to `Iio c.ord` for regular `c`, but also to concrete types such as `Nat`, `Cardinal`, or `Ordinal`.

As a proof of concept, we define `Order.enum`, a generalization of both `Nat.nth` and `Ordinal.enumOrd`. A future PR will deprecate the latter.

---

- [x] depends on: #38363

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Cardinal/Cofinality/Enum.lean [hunk 1]
```diff
@@ -0,0 +1,112 @@
...
+We define a typeclass `IsRegularCardinalOrder` for well-ordered types, whose order type equals (the
+initial ordinal of) their cofinality. This notion does not appear in the literature, but intends to
+generalize the properties of intervals `Iio c.ord`, wherever `c` is a regular cardinal. Other
+instances of this typeclass include `ℕ`, `Ordinal`, and `Cardinal`.
+
+If `s` is a cofinal subset of a regular cardinal order `α`, there exists a unique order isomorphism
+`α ≃o s`, which we call `Order.enum`. When `α = Ordinal`, this is referred to as the enumerator
+function of the set. Note that if `α = ℕ`, then this definition matches `Nat.nth`.
+
+## Todo
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Cofinality/Enum.lean]:
```suggestion
## TODO
```

File: Mathlib/SetTheory/Cardinal/Cofinality/Enum.lean [hunk 2]
```diff
@@ -0,0 +1,112 @@
...
+variable {α : Type*}
+
+/-- A typeclass which expresses that the order type of a well-order equals (the initial ordinal of)
+its cofinality.
+
+If `α` is infinite, this implies that `α` is order isomorphic to `Iio c.ord` for some regular
+cardinal `c`. In the informal literature, one often says that `α` is a regular cardinal, by abuse
+of notation. -/
+class IsRegularCardinalOrder (α : Type*) [LinearOrder α] [WellFoundedLT α] where
+  type_le_ord_cof : typeLT α ≤ (cof α).ord
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Cofinality/Enum.lean]:
```suggestion
  type_lt_le_ord_cof : typeLT α ≤ (cof α).ord
```
no?

File: Mathlib/SetTheory/Cardinal/Cofinality/Enum.lean [hunk 3]
```diff
@@ -0,0 +1,112 @@
...
+  apply IsRegularCardinalOrder.type_le_ord_cof.antisymm'
+  rw [ord_le, card_type]
+  exact cof_le_cardinalMk α
+
+@[simp]
+theorem cof_eq_cardinalMk : cof α = #α := by
+  rw [← card_type LT.lt, ← ord_cof_eq_type_lt, card_ord]
+
+@[simp]
+theorem _root_.Cardinal.ord_cardinalMk : ord (#α) = typeLT α := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Cofinality/Enum.lean]: Do we have a precedence issue?
```suggestion
theorem _root_.Cardinal.ord_cardinalMk : ord #α = typeLT α := by
```

File: Mathlib/SetTheory/Cardinal/Cofinality/Enum.lean [hunk 4]
```diff
@@ -0,0 +1,112 @@
...
+  rw [← ord_cof_eq_type_lt, cof_eq_cardinalMk]
+
+theorem cof_ordinal : cof Ordinal.{u} = Cardinal.univ.{u, u + 1} := by
+  simp
+
+theorem ordinalType_eq_of_isCofinal {s : Set α} (hs : IsCofinal s) : typeLT s = typeLT α := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Cofinality/Enum.lean]: Where does the `ordinal` come from?
```suggestion
theorem type_eq_of_isCofinal {s : Set α} (hs : IsCofinal s) : typeLT s = typeLT α := by
```

**Review by YaelDillies — COMMENTED** [review]
I find it extremely confusing naming-wise that `typeLT` is notation

**Comment by vihdzp** [comment]
I think of `typeLT` as an ugly compromise. I think we would rather have `Ordinal.type` redefined to match `typeLT` (i.e. define it in terms of a type and a bundled linear order, rather than an unbundled relation). But that refactor is still a bit far away.

File: Mathlib/SetTheory/Cardinal/Cofinality/Enum.lean (hunk 3 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/Cofinality/Enum.lean]: No, I just forget about this...

File: Mathlib/SetTheory/Cardinal/Cofinality/Enum.lean [hunk 5]
```diff
@@ -0,0 +1,112 @@
...
+  type_lt_le_ord_cof : typeLT α ≤ (cof α).ord
+
+instance : IsRegularCardinalOrder ℕ := ⟨by simp⟩
+
+instance (priority := low) [LinearOrder α] [WellFoundedLT α] [Subsingleton α] :
+    IsRegularCardinalOrder α where
+  type_lt_le_ord_cof := by
+    cases isEmpty_or_nonempty α
+    · simpa
+    · cases nonempty_unique α
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Cofinality/Enum.lean:54]: Should we have `isEmpty_or_nonempty_unique`?

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/SetTheory/Cardinal/Cofinality/Enum.lean (hunk 5 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/Cofinality/Enum.lean:54]: There's not an obvious place to put it, since the files where `isEmpty_or_nonempty` and `nonempty_unique` are defined do not import each other... It's a really minor golf, so I'd rather not make this PR depend on it.

**Comment by faenuccio** [comment]
thanks

bors merge
